US04444685
Step B: 1-Benzyloxy-1-oxo-2-diazo-3-(trimethylsilyloxy)butene
To a solution of lithium hexamethyldisilazide (25 mm) in 200 ml of tetrahydrofuran, prepared by the method of Example 6, add tetramethylethylenediamine (5.2 ml, 20 mm) and benzyl diazoacetate (4.4 g, 20 mm) at -78° C. After five minutes, add trimethylsilyl chloride (4 ml, 25 mm) and allow the mixture to warm to room temperature. Add hexane to precipitate the salts. Remove the precipitate by filtration. Concentrate the filtrate to obtain the title product as an oil (5.7 g).

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | tetramethylethylenediamine | 5.2 ml | CN(CCN(C)C)C | C6H16N2
reactant | benzyl diazoacetate | 4.4 g | [N+](=[N-])=CC(=O)OCC1=CC=CC=C1 | C9H8N2O2
reactant | trimethylsilyl chloride | 4 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-Benzyloxy-1-oxo-2-diazo-3-(trimethylsilyloxy)butene | 5.7 g | C(C1=CC=CC=C1)OC(C(C(=C)O[Si](C)(C)C)=[N+]=[N-])=O | C14H18N2O3Si
